US04775687
A solution of 4-methyl-2-[2-(4-nitrophenoxy)ethyl]-5-phenyloxazole (12.5 g) in methanol (150 ml) was subjected to catalytic reduction in the presence of 5% Pd-C (wet, 3.0 g). The catalyst was then filtered off and the filtrate was concentrated to give 2-[2-(4-aminophenoxy)ethyl]-4-methyl-5-phenyloxazole (11.0 g, 97.3%). Recrsytallization from ethanol gave colorless needles. M.p. 106°-107° C.

reactant | 4-methyl-2-[2-(4-nitrophenoxy)ethyl]-5-phenyloxazole | 12.5 g | CC=1N=C(OC1C1=CC=CC=C1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C18H16N2O4
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd-C | 3.0 g | [Pd] | Pd
product | 2-[2-(4-aminophenoxy)ethyl]-4-methyl-5-phenyloxazole | 11.0 g, 97.3% | NC1=CC=C(OCCC=2OC(=C(N2)C)C2=CC=CC=C2)C=C1 | C18H18N2O2
